US07585885B2
N-{(1S,2R)-1-(3,5-Difluoro-benzyl)-2-hydroxy-2-[(2R,4R)-4-(3-methyl-butoxy)-4-trifluoromethyl-pyrrolidin-2-yl]-ethyl}-acetamide hydrochloride
Add 4M hydrogen chloride in dioxane (8 mL) to (2R,4R)-2-[(4S,5S)-3-acetyl-4-(3,5-difluoro-benzyl)-2,2-dimethyl-oxazolidin-5-yl]-4-(3-methyl-butoxy)-4-trifluoromethyl-pyrrolidine-1-carboxylic acid tert-butyl ester (0.084 g, 0.14 mmol). Stir 2 hours and evaporate to give the title compound as a foam (0.073 g, 100%).

reactant | hydrogen chloride | 4M | Cl | ClH
reactant | (2R,4R)-2-[(4S,5S)-3-acetyl-4-(3,5-difluoro-benzyl)-2,2-dimethyl-oxazolidin-5-yl]-4-(3-methyl-butoxy)-4-trifluoromethyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.14 mmol, 0.084 g | C(C)(C)(C)OC(=O)N1[C@H](C[C@@](C1)(C(F)(F)F)OCCC(C)C)[C@@H]1[C@@H](N(C(O1)(C)C)C(C)=O)CC1=CC(=CC(=C1)F)F | C29H41F5N2O5
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
product | N-{(1S,2R)-1-(3,5-Difluoro-benzyl)-2-hydroxy-2-[(2R,4R)-4-(3-methyl-butoxy)-4-trifluoromethyl-pyrrolidin-2-yl]-ethyl}-acetamide hydrochloride | 0.073 g, 100% | Cl.FC=1C=C(C[C@@H]([C@@H]([C@@H]2NC[C@](C2)(C(F)(F)F)OCCC(C)C)O)NC(C)=O)C=C(C1)F | InChI=1S/C21H29F5N2O3.ClH/c1-12(2)4-5-31-20(21(24,25)26)10-18(27-11-20)19(30)17(28-13(3)29)8-14-6-15(22)9-16(23)7-14;/h6-7,9,12,17-19,27,30H,4-5,8,10-11H2,1-3H3,(H,28,29);1H/t17-,18+,19-,20+;/m0./s1
